US07915443B2
methyl{3-[N-({6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetate
In a manner similar to that described in Example 496 (step 5), 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinic acid and methyl{3-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]phenyl}acetate were reacted to give the title compound.

reactant | 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinic acid | NC1=NC=C(C(=O)O)C=C1C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C | C20H17N5O3
reactant | methyl{3-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]phenyl}acetate | COC(CC1=CC(=CC=C1)S(=O)(=NC(C(F)(F)F)=O)C)=O | C12H12F3NO4S
product | methyl{3-[N-({6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetate | COC(CC1=CC(=CC=C1)S(=O)(=NC(=O)C=1C=NC(=C(C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)N)C)=O | C30H28N6O5S
